US08558028B2
Preparation of 1-Acetyl-N-(3-(1-(2-(4-chlorophenoxy)phenylamino)ethyl)phenyl)-N-ethylpiperidine-4-carboxamide
2-(4-Chlorophenoxy)aniline (95 mg, 0.431 mmol, 1 eq) and 1-acetyl-N-(3-acetylphenyl)-N-ethylpiperidine-4-carboxamide (150 mg, 0.474 mmol, 1.1 eq) were stirred in dry dichloromethane (DCM) (2 mL) at room temperature for 10 min. Tri-isopropoxytitanium chloride (206 μL, 1.654 mmol, 2 eq) was added to the reaction mixture which was stirred at room temperature for 16 hours. Sodium triacetoxyborohydride (365 mg, 1.724 mmol, 4 eq) was then added to the reaction mixture and was stirred at room temperature for a further 24 h. The reaction mixture was then poured onto a solution of saturated aqueous sodium bicarbonate (100 mL) and extracted with DCM (120 mL). The organic layer was washed with brine (120 mL), dried over MgSO4, filtered and concentrated to give the crude as a yellow oil. Purification of the crude by flash chromatography (ISCO) eluting with a gradient [0-10% MeOH/DCM] gave as a pale yellow oil. 1H NMR (270 MHz, CDCl3) δ 0.98 (3H, dt, J=3.1, 7.0 Hz, CH3), 1.25 (1H, m, CH2), 1.50 (3H, d, J=6.2 Hz CH3), 1.50-1.71 (3H, m, CH2), 1.95 (3H, d, J=7.2 Hz) 2.05-2.20 (2H, m, CH2), 2.40 and 2.65 (1H, m, CH), 3.50-3.72 (3H, m, CH2), 4.30-4.61 (3H, m, CH and NH), 6.32 (1H, d, J=7.8 Hz, ArH), 6.55 (1H, q, J=7.3 Hz, Ar), 6.70-6.90 (4H, m, Ar), 6.95-7.05 (2H, m, Ar), 7.20-7.42 (4H, m, Ar); LCMS (90% MeOH and 10% H2O; Symmetry C18 reverse phase column) tr=2.38 min; (ES+), m/z 520.3; HRMS (ESI) calcd. for C30H35ClN3O3 (M+H)+ 520.2289, found 520.2343. HPLC 99.49% purity.

reactant | 2-(4-Chlorophenoxy)aniline | 0.431 mmol, 95 mg, 1 eq | ClC1=CC=C(OC2=C(N)C=CC=C2)C=C1 | C12H10ClNO
reactant | 1-acetyl-N-(3-acetylphenyl)-N-ethylpiperidine-4-carboxamide | 0.474 mmol, 150 mg, 1.1 eq | C(C)(=O)N1CCC(CC1)C(=O)N(CC)C1=CC(=CC=C1)C(C)=O | C18H24N2O3
reactant | Sodium triacetoxyborohydride | 1.724 mmol, 365 mg, 4 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | Tri-isopropoxytitanium chloride | 1.654 mmol, 206 μL, 2 eq | [Cl-].C(C)(C)O[Ti+](OC(C)C)OC(C)C
solvent | H2O | O | H2O
solvent | MeOH | CO | CH4O
product | 1-Acetyl-N-(3-(1-(2-(4-chlorophenoxy)phenylamino)ethyl)phenyl)-N-ethylpiperidine-4-carboxamide | C(C)(=O)N1CCC(CC1)C(=O)N(CC)C1=CC(=CC=C1)C(C)NC1=C(C=CC=C1)OC1=CC=C(C=C1)Cl | C30H34ClN3O3
